Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
Right heart catheterization ___

 
History of Present Illness:
___ woman without any significant past medical history
who presents for evaluation of palpitations, chest pain, and
shortness of breath. She describes 3 days worth of palpitations
which have been keeping her from sleeping due to the sensation 
of
her heart pounding in her ears. Today, she developed central,
nonradiating chest pain without any clear aggravating or
alleviating factors. However, it slowly worsened through the 
day,
prompting her to seek medical care in the emergency department.
She also describes poorly defined shortness of breath not 
clearly
associated with the chest pain or palpitations, which is not
present right now; she is unable to give clear details of when
she experiences this symptom, or the time course of it.  
 Otherwise, on review of systems, the patient reports that she
had an episode of syncope about 10 days ago. She stood quickly
from bed in the middle the night, had prodrome of cold sweats,
felt dizzy, and passed out. She did not injure herself in any
way. Several nights later, she was lying in bed, woke in the
middle of the night, and thought that if she stood she would 
pass
out, so she did not get up. She also reports that her legs feel
weak after exercising; she has recently started new exercise
routine, but she has not been dieting. She felt nauseous earlier
today but denies vomiting or diarrhea. She is not any urinary
symptoms. She denies any history of heavy menses, or ever being
told her blood counts are low.  
 She does not have any calf pain or swelling. She does not have
any personal or family history of blood clots. She has not been
immobilized or had any long travel. No hemoptysis. No malignancy
in her past.  
 In the ED initial vitals were: T 98.8 HR 114 BP 129/81 RR 15 O2
sat 100% RA. Exam notable for ___ systolic ejection murmur
loudest over the left upper sternal border. EKG: Sinus rhythm,
normal axis and intervals, TWI in III, aVF, no Brugada pattern 
or
epsilon waves noted  
 Labs/studies notable for mild leukocytosis to 12. CTA showed No
evidence of central pulmonary embolism although motion limits
assessment of the segmental lower lobe pulmonary arteries and,
markedly dilated main pulmonary trunk may suggest pulmonary
hypertension. 
Echo showed arrhythmogenic dysplasia
EP was consulted d/t recent syncope which would have been
concerning for possible arrhythmia. EP recommended that she be
admitted to ___ and ___ need a cardiac MRI as an inpatient

 
Past Medical History:
1. CARDIAC RISK FACTORS  
 - None  
2. CARDIAC HISTORY  
 - None  
3. OTHER PAST MEDICAL HISTORY  
- Depression
- GAD
- Migraine
- PCOS

 
Social History:
___
Family History:
Not pertinet
 
Physical Exam:
On admission
VS: T BP HR RR O2 SAT  
 GENERAL: Well developed, well nourished and NAD. Oriented x3.
Mood, affect appropriate.  
 HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
 NECK: Supple. No JVP   
 CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. ___ systolic
murmurs
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
 ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
 EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
 SKIN: No significant skin lesions or rashes.  
 PULSES: Distal pulses palpable and symmetric.  

On discharge
OBJECTIVE:
24 HR Data (last updated ___ @ 802)
Temp: 98.6 (Tm 98.7), BP: 106/63 (96-128/55-81), HR: 72
(72-83), RR: 18 (___), O2 sat: 100% (92-100), O2 delivery: Ra,
Wt: 185.2 lb/84.01 kg  
General:NAD
Lungs: CTAB with good symmetrical breath sounds
CV:RRR, S1, S2 present, ___ systolic murmur
Abdomen:BS+, ND, NT
Ext: No edema

 
Pertinent Results:
On admission
___ 01:35AM BLOOD Neuts-66.1 ___ Monos-7.7 Eos-0.6* 
Baso-0.5 Im ___ AbsNeut-8.01* AbsLymp-3.01 AbsMono-0.94* 
AbsEos-0.07 AbsBaso-0.06
___ 01:35AM BLOOD Plt ___
___ 01:35AM BLOOD D-Dimer-408
___ 01:35AM BLOOD Glucose-97 UreaN-6 Creat-0.7 Na-142 K-3.9 
Cl-107 HCO3-21* AnGap-14
___ 05:33AM BLOOD ALT-14 AST-15 AlkPhos-61 TotBili-0.9
___ 01:35AM BLOOD cTropnT-<0.01
___ 01:35AM BLOOD Calcium-9.5 Phos-3.8 Mg-2.0
___ 01:35AM BLOOD TSH-3.6
___ 05:33AM BLOOD ANCA-NEGATIVE B
___ 05:33AM BLOOD RheuFac-<10 ___
___ 06:26AM BLOOD HIV Ab-NEG

On discharge
___ 06:26AM BLOOD WBC-8.9 RBC-4.15 Hgb-12.2 Hct-37.6 MCV-91 
MCH-29.4 MCHC-32.4 RDW-12.3 RDWSD-40.5 Plt ___
___ 06:26AM BLOOD Plt ___
___ 06:26AM BLOOD Glucose-77 UreaN-10 Creat-0.8 Na-141 
K-4.1 Cl-104 HCO3-25 AnGap-12
___ 06:26AM BLOOD Calcium-9.4 Phos-4.7* Mg-2.0

RHC
Findings
• Normal pulmonary artery pressure, no evidence of pulmonary 
hypertension
• Normal wedge pressure
• Oxygenation step up noted at the level of the right atrium, 
suggesting left to right shunt
• Calculated Qp/Qs from Mixed Venous, assumed arterial 
sat/pulmonary venous sat and PA sat is
2.3
• Proceed with scheduled Cardiac MRI for further evaluation
 
Brief Hospital Course:
___ woman without any significant past medical history 
who presents for evaluation of palpitations and syncope, found 
to have dilated RV and likely left to right shunt. 

Transitional issues 
[] Follow-up with Atrius Cardiology for cardiac MRI results and 
placement of cardiac event monitor; if e/o ARVC present, would 
involve EP for possible ICD placement.
[] Right heart cath showed evidence of left to right shunt. 
Calculated Qp/Qs was 2.3. This suggests risk for eventual 
hemodynamic significance and risk of progression to pulmonary 
HTN due to ASD; pending MRI results will need referral for 
intervention from shunt. 
[] Short course of lorazepam prescribed on discharge for anxiety 
related to diagnoses; continue to monitor anxiety and consider 
initiation of other ___ medical therapy.
[] HIV pending on discharge; please follow up these results.

#Right ventricular dilation: 
#Dilated pulmonary artery: 
Transthoracic echo with evidence of thickening of RV outflow 
track and dilated pulmonary artery, with ___ systolic murmur on 
L. sternal border. Patient underwent right heart 
catheterization, showing normal right sided heart and PA 
pressures and normal wedge pressure, but likely left to right 
shunt. She also had a cardiac MRI, and these results were 
pending at the time of discharge. She was monitored on 
telemetry, and there were no arrhythmias identified.

#Syncope
Patient endorses multiple episodes over past ___ years of 
transient loss of consciousness, which sound most consistent 
with vasovagal syncope given preceding nausea, lightheadedness, 
and feelings of warmth. Given this prodrome and negative 
telemetry evaluation, syncope was not thought to be secondary to 
RV dilation. Cardiac MRI was nevertheless obtained, and she will 
have outpatient rhythm monitoring arranged by ___ cardiology. 


#Chest pain
#Palpitations 
EKG w/o ischemic changes, trop negative, and with no risk 
factors for ACS. Telemetry was negative as above. Could have 
been atypical manifestation of RV dilation, vs. anxiety. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Ibuprofen 400 mg PO Q8H Duration: 3 Days  
2.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
RX *lorazepam 0.5 mg 1 tablet(s) by mouth once a day Disp #*10 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis 
Left-to-right shunt

Secondary Diagnosis
Syncope 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you had palpitations 
and shortness of breath, and an ultrasound of your heart showed 
that one of the compartments was enlarged. 

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- We monitored your heart rhythm and did not find any concerning 
arrhythmias.
- Because of the echocardiogram, we did an procedure called a 
catheterization to look at the pressures in your heart. The 
pressures were normal, but the procedure did show that there is 
something called a "shunt", which causes abnormal blood movement 
from the left side of your heart to the right side of your 
heart. 
- You had an MRI of your heart to look at where the shunt was. 
The results of this are pending, and you will hear about the 
results after you leave the hospital. 

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed.
- You should attend the appointments listed below.
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.
- You should hear from the ___ Cardiology department about 
the results of your MRI and further steps. If you do not hear 
from them by ___, please call them at ___.
- We gave you a new medicine to treat anxiety. This medication 
can make you sleepy. Do not take it prior to driving. 

We wish you the best!
Your ___ Care Team

 
Followup Instructions:
___